US07737166B2
4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl trifluoromethanesulfonate (I-323)
2-Cyclopropyl-7-methoxy-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-322) (3.30 g, 10.8 mmol) was dissolved in dimethylacetamide (67 ml), then sodium acetate (2.67 g, 32.5 mmol) was added, followed by stirring in an oil bath at 130° C. for 15 hours. The reaction liquid was concentrated under reduced pressure, then water was added, followed by extraction with a mixed solvent of chloroform/methanol (19:1), then the obtained organic layer was dried over anhydrous sodium sulfate, the insoluble matter was separated by filtration, the residue obtained by concentration was dissolved in pyridine (67 ml), then 4-dimethylaminopyridine (265 mg, 2.17 mmol) and trifluoromethanesulfonic anhydride (5.34 ml, 32.5 mmol) was added, followed by stirring at room temperature for 23 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, and washed with aqueous 1N hydrochloric acid, water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=4:1, v/v) to obtain the entitled compound (1.98 g, 43%) as a pale yellow solid.

reactant | 2-Cyclopropyl-7-methoxy-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 10.8 mmol, 3.30 g | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2OC)C2=CC=CC=C2)C)C#N | C19H16N2O2
reactant | sodium acetate | 32.5 mmol, 2.67 g | C(C)(=O)[O-].[Na+]
reactant | trifluoromethanesulfonic anhydride | 32.5 mmol, 5.34 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dimethylacetamide | 67 ml | CC(=O)N(C)C | C4H9NO
solvent | pyridine | 67 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 2.17 mmol, 265 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl trifluoromethanesulfonate | 1.98 g, 43% | FC(S(=O)(=O)OC1=C(C(=C(C=2N=C(OC21)C2CC2)C#N)C)C2=CC=CC=C2)(F)F | C19H13F3N2O4S
